US05132475
In a 10 mL round-bottom flask, 1.58 g of ethyl 2-acetylbutyrate (10 mmol), 2.1 g bromotrichloromethane (10.5 mmol), and 200 mg of tetra-n-butylammonium fluoride trihydrate (0.632 mmol) were mixed at 24° C. for 1 h. Gas chromatographic analysis of the resulting mixture showed the presence of 1.34 g of ethyl 2-acetyl-2-bromobutyrate (56% yield).

reactant | ethyl 2-acetylbutyrate | 10 mmol, 1.58 g | C(C)(=O)C(C(=O)OCC)CC | C8H14O3
reactant | bromotrichloromethane | 10.5 mmol, 2.1 g | BrC(Cl)(Cl)Cl | CBrCl3
reactant | tetra-n-butylammonium fluoride trihydrate | 0.632 mmol, 200 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | ethyl 2-acetyl-2-bromobutyrate | 1.34 g, 56% yield | C(C)(=O)C(C(=O)OCC)(CC)Br | C8H13BrO3
